US05538966
Step A: 3-(1,3-Dioxolan-2-yl)-N-(4-methoxyphenyl)-thiophene-2-sulfonamide
A solution of 3-(1,3-dioxolan-2-yl)-thiophene-2-sulfonyl chloride (11.16 g), prepared from thiophene-3-carboxaldehyde ethylene acetal as described in Example 6, Step A, in THF (100 mL) at 0° C. was combined with p-anisidine (7.87 g, 63.9 mmol) and triethylamine (4.04 g, 40 mmol). After stirring for 4 hr at ambient temperature, the mixture was evaporated to a residue which was extracted with ethyl acetate (2×150 mL). The combined extracts were dried (MgSO4) and evaporated to a residue which was purified by column chromatography (silica, 40% ethyl acetate/hexane) to give an oil (10.21 g, 75%).

reactant | 3-(1,3-dioxolan-2-yl)-thiophene-2-sulfonyl chloride | 11.16 g | O1C(OCC1)C1=C(SC=C1)S(=O)(=O)Cl | C7H7ClO4S2
reactant | thiophene-3-carboxaldehyde ethylene acetal | C1COC(C2=CSC=C2)O1 | C7H8O2S
reactant | p-anisidine | 63.9 mmol, 7.87 g | COC1=CC=C(C=C1)N | C7H9NO
reactant | triethylamine | 40 mmol, 4.04 g | C(C)N(CC)CC | C6H15N
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 3-(1,3-Dioxolan-2-yl)-N-(4-methoxyphenyl)-thiophene-2-sulfonamide | 10.21 g, 75% | O1C(OCC1)C1=C(SC=C1)S(=O)(=O)NC1=CC=C(C=C1)OC | C14H15NO5S2
